US04743291
A stirred mixture of 0.2 gram (0.0007 mole) of 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one, 0.3 gram (0.0007 mole) of N-(2,3-dihydro-2,2-dimethylbenzofuran-7-yl)sulfonyl-2-bromopropionamide, 0.3 gram (0.002 mole) of potassium carbonate in 20 ml of acetone was heated under reflux for 18 hours. The reaction mixture was cooled and concentrated under reduced pressure to a residue. The residue was dissolved in 100 ml of water and the solution acidified by the dropwise addition of concentrated hydrochloric acid. The resultant precipitate was collected by filtration, washed with water, and dried to yield N-(2,3-dihydro-2,2-dimethylbenzofuran-7-yl)sulfonyl-2-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionamide; m.p. 198°-201° C.

reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.0007 mole, 0.2 gram | ClC1=CC(=C(C=C1O)N1N=C(N(C1=O)C(F)F)C)F | C10H7ClF3N3O2
reactant | N-(2,3-dihydro-2,2-dimethylbenzofuran-7-yl)sulfonyl-2-bromopropionamide | 0.0007 mole, 0.3 gram | CC1(OC2=C(C1)C=CC=C2S(=O)(=O)NC(C(C)Br)=O)C | C13H16BrNO4S
reactant | potassium carbonate | 0.002 mole, 0.3 gram | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | N-(2,3-dihydro-2,2-dimethylbenzofuran-7-yl)sulfonyl-2-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionamide | CC1(OC2=C(C1)C=CC=C2S(=O)(=O)NC(C(C)OC2=C(C=C(C(=C2)N2N=C(N(C2=O)C(F)F)C)F)Cl)=O)C | C23H22ClF3N4O6S
